### PR TITLE
[Merged by Bors] - chore(OpenPartialHomeomorph): tag three lemmas with grind

### PR DESCRIPTION
**Pull request by grunweg**
and `OpenPartialHomeomorph.restr_source_inter` with simp. Follow-up from #28793.

---

This is my first time adding grind annotations, so a careful review is welcome.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/OpenPartialHomeomorph.lean [hunk 1]
```diff
@@ -655,6 +656,7 @@ theorem restr_eq_of_source_subset {e : OpenPartialHomeomorph X Y} {s : Set X} (h
 theorem restr_univ {e : OpenPartialHomeomorph X Y} : e.restr univ = e :=
   restr_eq_of_source_subset (subset_univ _)
 
+@[grind =]
 theorem restr_source_inter (s : Set X) : e.restr (e.source ∩ s) = e.restr s := by
```
Comment (chrisflav) [inline Mathlib/Topology/OpenPartialHomeomorph.lean]: Is there a reason why this is not `simp`?

File: Mathlib/Topology/OpenPartialHomeomorph.lean [hunk 2]
```diff
@@ -639,6 +639,7 @@ theorem restr_toPartialEquiv (s : Set X) :
     (e.restr s).toPartialEquiv = e.toPartialEquiv.restr (interior s) :=
   rfl
 
+@[grind =]
 theorem restr_source' (s : Set X) (hs : IsOpen s) : (e.restr s).source = e.source ∩ s := by
   rw [e.restr_source, hs.interior_eq]
```
Comment (chrisflav) [inline Mathlib/Topology/OpenPartialHomeomorph.lean]: I think we should do the following instead (in the right place with `@[grind =]`):
```
attribute [grind =] IsOpen.interior_eq
attribute [grind =] OpenPartialHomeomorph.restr_source
```
Then this tag can be dropped and the proof is `by grind`.

Comment (grunweg) [reply Mathlib/Topology/OpenPartialHomeomorph.lean]: Good point (I've tweaked simps so `OpenPartialHomeomorph.restr_target` also gets tagged). Done.

File: Mathlib/Topology/OpenPartialHomeomorph.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Topology/OpenPartialHomeomorph.lean]: Good question! I don't see why not, so have marked it simps.

**Comment by grunweg** [comment]
Thanks for the quick review. I have addressed both of them.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge
